US06387901B1
(2S,3R,6S)-2,6-DIMETHYL-4-(4-PENT-2-YNYLOXY-BENZENESULFONYL)-MORPHOLINE-3-CARBOXYLIC ACID METHYL ESTER
The title compound was prepared in a manner similar to Preparation 3 from 1-chloro-pent-2-yne and (2S,3R,6S)-4-(4-Hydroxy-benzenesulfonyl)-2,6-dimethyl-morpholine-3-carboxylic acid methyl ester. 1HNMR (400 MHz, CDCl3): δ=7.70 (d, J=8.9 Hz, 2H), 7.0 (d, J=8.9 Hz, 2H), 4.71 (bs, 2H), 4.52 (q, J=7.0 Hz, 1H), 4.27 (s, 1H), 3.97 (m, 1H), 3.54 (s, 3H), 2.98 (dd, J=12.1 and 10.8, 1H), 2.21 (m, 2H), 1.44 (d, J=6.9 Hz, 3H), 1.11 (t, J=7.5 Hz, 3H), 1.05 (d, J=6.0 Hz, 3H).

reactant | 1-chloro-pent-2-yne | ClCC#CCC | C5H7Cl
reactant | (2S,3R,6S)-4-(4-Hydroxy-benzenesulfonyl)-2,6-dimethyl-morpholine-3-carboxylic acid methyl ester | COC(=O)[C@@H]1N(C[C@@H](O[C@H]1C)C)S(=O)(=O)C1=CC=C(C=C1)O | C14H19NO6S
product | (2S,3R,6S)-2,6-DIMETHYL-4-(4-PENT-2-YNYLOXY-BENZENESULFONYL)-MORPHOLINE-3-CARBOXYLIC ACID METHYL ESTER | COC(=O)[C@@H]1N(C[C@@H](O[C@H]1C)C)S(=O)(=O)C1=CC=C(C=C1)OCC#CCC | C19H25NO6S
